US05225414
a) Ethyl 2-bromo-3-p-tolyl-3oxopropionate
20.4 g of ethyl 3-p-tolyl-3-oxopropionate (Helv. Chim. Acta 57, 2205 (1974)) are dissolved in 20 ml of CCl4. A solution of 6 ml of bromine in 30 ml of CCl4 is added dropwise at -5° C. After 1 hour at -5° C., the mixture is stirred at 20° C. for 3 h and then at 60° C. for 1 h. the solvent is removed. The title compound is used further as crude product; yield 34 g.

reactant | ethyl 3-p-tolyl-3-oxopropionate | 20.4 g | C1(=CC=C(C=C1)C(CC(=O)OCC)=O)C | C12H14O3
reactant | bromine | 6 ml | BrBr | Br2
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 2-bromo-3-p-tolyl-3oxopropionate | BrC(C(=O)OCC)C(=O)C1=CC=C(C=C1)C | C12H13BrO3
